US07300951B2
Sodium cyanide (4.31 g, 88.04 mmol) and 4,4,4-trifluorobutanal (3.7 g, 29.34 mmol) were added to ammonium carbonate (9.1 g, 117.4 mmol) in H2O (60 mL). The black reaction mixture was heated to 90° C. After 1 h, the mixture became homogeneous and it was stirred at 90° C. for 18 h. After cooling to 25° C., about 60 mL of solvent was removed in vacuo. Concentrated HCl (4 mL) was added to acidify the mixture to a pH of about 2 and a precipitate formed. It was filtered. The mother liquor was washed with EtOAc (3×50 mL). The organic layer was dried over MgSO4, filtered and concentrated to obtain 5-(3,3,3-trifluoropropyl)imidazolidine-2,4-dione as a brown oil (3.95 g, 69.7%). Mass Spectrum (−ESI): 195 (M−H)−.

reactant | Sodium cyanide | 88.04 mmol, 4.31 g | [C-]#N.[Na+]
reactant | 4,4,4-trifluorobutanal | 29.34 mmol, 3.7 g | FC(CCC=O)(F)F | C4H5F3O
reactant | ammonium carbonate | 117.4 mmol, 9.1 g | C([O-])([O-])=O.[NH4+].[NH4+]
reactant | H2O | 60 mL | O | H2O
product | 5-(3,3,3-trifluoropropyl)imidazolidine-2,4-dione | 3.95 g, 69.7% | FC(CCC1C(NC(N1)=O)=O)(F)F | C6H7F3N2O2
